US06953806B2
In analogy to the procedure described in example 1.7, 0.325 g (1.90 mmol) of trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol were acylated with 0.54 g (2.84 mmol) of 4-chlorophenyl chloroformate to yield 0.34 g (55%) trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester as colorless viscous oil, MS: 326 (MH+, 1Cl).

reactant | trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol | 1.90 mmol, 0.325 g | CNC[C@@H]1CC[C@H](CC1)CCO | C10H21NO
reactant | 4-chlorophenyl chloroformate | 2.84 mmol, 0.54 g | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
product | trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid 4-chloro-phenyl ester | 0.34 g, 55% | ClC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CCO)=O | C17H24ClNO3
